US08071586B2
A) (R)-2-Amino-3-(3-trifluoromethyl-phenyl)-propan-1-ol
Borane-tetrahydrofuran complex (1 M in tetrahydrofuran, 21.4 ml, 21.4 mmol) was added at 0° C. to a solution of D-3-trifluoromethylphenylalanine (2.00 g, 8.57 mmol) in tetrahydrofuran (45 ml). The reaction mixture was allowed to reach room temperature over 3 h, then partitioned between sat. aq. sodium carbonate solution and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; dichloromethane/methanol/25% aq. ammonia solution 90:10:0.25) afforded the title compound (1.58 g, 84%). Colorless oil, MS (ISP)=220.3 (M+H)+.

reactant | Borane tetrahydrofuran | 21.4 mmol, 1 M, 21.4 ml | B.O1CCCC1
reactant | D-3-trifluoromethylphenylalanine | 8.57 mmol, 2.00 g | C1=CC(=CC(=C1)C(F)(F)F)C[C@H](C(=O)O)N | C10H10F3NO2
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | (R)-2-Amino-3-(3-trifluoromethyl-phenyl)-propan-1-ol | 1.58 g, 84% | N[C@@H](CO)CC1=CC(=CC=C1)C(F)(F)F | C10H12F3NO
